US05594014
4-Amino-3-Bromobenzthioamide
A stirred solution of 4-amino-3-bromobenzonitrile (6.92 g, 35.1 mmol) and diethyl dithiophosphate (17.7 mL, 105 mmol, 3 eq.) in absolute ethanol (160 mL) at 0° C. was perfused with hydrogen chloride gas at a moderate rate for 30 minutes. The resulting reaction mixture was stirred at room temperature for 12 hours, and then solvent was removed via evaporation under reduced pressure. The residue was suspended in a saturated solution of sodium hydrogen carbonate (25 mL), and this aqueous mixture was extracted with ethyl acetate (3×25 mL). The organic extracts were combined, dried (MgSO4), and evaporated under reduced pressure. The residue was chromatographed using silica gel (approximately 300 g) and elution with an acetone gradient in methylene chloride [1:50 to 1:20] to afford the title compound (1.02 g, 25%) as an amorphous yellow solid: 1H NMR (DMSO-d6) δ 9.41 (br s, NH), 9.13 (br s, NH), 9.13 (br s, NH), 8.11 (d, J=2.1 Hz, 1H), 7.78 (dd, J=2.1 and 8.6 Hz, 1H), 6.72 (d, J=8.7 Hz, 1H), 6.03 (s, 2NH); TLC: RB1 =0.15[1% diethyl ether in methylene chloride].

reactant | 4-amino-3-bromobenzonitrile | 35.1 mmol, 6.92 g | NC1=C(C=C(C#N)C=C1)Br | C7H5BrN2
reactant | diethyl dithiophosphate | 105 mmol, 17.7 mL, 3 eq. | P(=S)(SCC)(OCC)[O-]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 4-Amino-3-Bromobenzthioamide | 1.02 g, 25% | NC1=C(C=C(C(N)=S)C=C1)Br | C7H7BrN2S
